US07910774B2
A solution of 960 g of (3R,6R,7aS)-6-isopropyl-5-oxo-3-phenyl-tetrahydro-pyrrolo[1,2-c]oxazole-6-carboxylic acid ethyl ester in 8 L of tetrahydrofuran is treated with 3.33 L of a 2.0 M solution of sodium hydroxide at room temperature. The reaction mixture is stirred for 24 hours toluene (5.15 L) is added and the reaction pH adjusted to between 2-4 with a 10% solution of citric acid. The layers are separated and the aqueous layer saturated with sodium chloride. The aqueous layer is washed with 4 L of toluene and the organic layers combined and dried. The toluene solution is heated to reflux for 48 hours. Finally the solution is cooled to 70° C. and the toluene removed under a slight negative pressure to give (3R,6S,7aS)-6-isopropyl-3-phenyltetrahydro-pyrrolo[1,2-c]oxazol-5-one.

reactant | (3R,6R,7aS)-6-isopropyl-5-oxo-3-phenyl-tetrahydro-pyrrolo[1,2-c]oxazole-6-carboxylic acid ethyl ester | 960 g | C(C)OC(=O)[C@]1(C[C@@H]2N([C@H](OC2)C2=CC=CC=C2)C1=O)C(C)C | C18H23NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | toluene | 5.15 L | C1(=CC=CC=C1)C | C7H8
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 8 L | O1CCCC1 | C4H8O
product | (3R,6S,7aS)-6-isopropyl-3-phenyltetrahydro-pyrrolo[1,2-c]oxazol-5-one | C(C)(C)[C@@H]1C[C@@H]2N([C@H](OC2)C2=CC=CC=C2)C1=O | C15H19NO2
